US06525051B2
To DMSO (5 mL) was added 5-hydroxy-1,3-benzodioxolane (1.09 g, 7.9 mmol), difluoropyridine (0.72 mL, 7.9 mmol), and cesium carbonate (2.62 g, 8.0 mmol). After heating at 50° C. for 18 hours, the reaction was partitioned with water and ethyl acetate. The organic layer was washed with water, brine, and dried (Na2SO4). The solvent was removed to give 2-(1,3-benzodioxol-5-yloxy)-6-fluoropyridine.

reactant | 5-hydroxy-1,3-benzodioxolane | 7.9 mmol, 1.09 g | OC1=CC2=C(OCO2)C=C1 | C7H6O3
reactant | difluoropyridine | 7.9 mmol, 0.72 mL | FC=1C(=NC=CC1)F | C5H3F2N
reactant | cesium carbonate | 8.0 mmol, 2.62 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | 2-(1,3-benzodioxol-5-yloxy)-6-fluoropyridine | O1COC2=C1C=CC(=C2)OC2=NC(=CC=C2)F | C12H8FNO3
